US05756504
1-(2,4-Dimethoxyphenylacetyl)-4-(2-methylphenyl)piperazine
1-(2-methylphenyl)piperazine (.087 g, 0.41 mmol) and 2,4-dimethoxyphenylacetic acid (0.096 g, 0.49 mmol) were dissolved in 20 DMF (5 ml) and treated with EDC (0.091 g, 0.47 mmol) and HBT (0.071 g, 0.52 mmol). Triethylamine was added to the stirred mixture to bring the pH (moistened E. Merck colorpHast indicator) to ca. 9. The mixture was stirred at ambient temperature for 18 hours, then concentrated in vacuo. The residue was taken up in ethyl acetate, and the ethyl acetate layer was washed with saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered, and the filtrate was concentrated to dryness in vacuo. The residue was chromatographed on silica gel eluted with 1.5% methanol in methylene chloride. The combined product fractions were evaporated to dryness in vacuo to give the title compound.

reactant | 1-(2-methylphenyl)piperazine | 0.41 mmol, .087 g | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
reactant | 2,4-dimethoxyphenylacetic acid | 0.49 mmol, 0.096 g | COC1=C(C=CC(=C1)OC)CC(=O)O | C10H12O4
reactant | EDC | 0.47 mmol, 0.091 g
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-Dimethoxyphenylacetyl)-4-(2-methylphenyl)piperazine | COC1=C(C=CC(=C1)OC)CC(=O)N1CCN(CC1)C1=C(C=CC=C1)C | C21H26N2O3
